Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: ORTHOPAEDICS
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
Left ankle fracture/dislocation
 
Major Surgical or Invasive Procedure:
___: 
1. Closed reduction left ankle.
2. Open reduction internal fixation left distal tib-fib
    syndesmosis.
3. Stress examination of the left ankle.

 
History of Present Illness:
Mr. ___ is a ___ year old man who fell approximately 8 feet 
from a ladder.  He was taken to ___ and ___ to have a 
fracture/dislocation of his left ankle.  He was then transferred 
to the ___ for further evaluation and care.
 
Past Medical History:
PMH:  
(1) HTN  
(2) Hypercholesterolemia  
(3) Bladder Ca s/p two surgeries (last cystoscopy "clean")  
(4) s/p Bilateral rotator cuff repair  

 
Social History:
___
Family History:
n/a
 
Physical Exam:
General Evaluation Exam
Sensorium:           Awake (x) Awake impaired () Unconscious ()
Airway:              Intubated () Not intubated (x)
Breathing:           Stable (x) Unstable ()
Circulation:         Stable (x)   Unstable ()

Musculoskeletal Exam
Neck   Normal (x)  Abnormal ()   Comments:
Spine  Normal (x)  Abnormal ()   Comments:
Clavicle
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Shoulder
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Arm
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Elbow
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Forearm
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Wrist
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Hand
     R Normal (x)  Abnormal ()   Comments:
     L Normal (x)  Abnormal ()   Comments:
Pelvis
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:
Hip
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:
Thigh
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:
Knee
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:
Leg
     R Normal (x)  Abnormal ()    Comments:
     L Normal ()  Abnormal (x)    Comments: ttp proximal fibula
Ankle
     R Normal (x)  Abnormal ()    Comments:
     L Normal ()  Abnormal (x)    Comments: marked medial
malleolus deformity with posterior and lateral dislocation of 
the
foot. 2+ pulses. Sensation intact.
Foot
     R Normal (x)  Abnormal ()    Comments:
     L Normal (x)  Abnormal ()    Comments:

Vascular:
Radial   R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()
Ulnar    R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()
Femoral  R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()
Poplitea R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()
DP       R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()
___       R Palpable (x) Non-palpable () Doppler ()
         L Palpable (x) Non-palpable () Doppler ()

Neuro:
Deltoid    R (5) L (5)
Biceps     R (5) L (5)
Triceps    R (5) L (5)
Wrist Flx  R (5) L (5)
Wrist Ext  R (5) L (5)
Finger Flx R (5) L (5)
Finger Ext R (5) L (5)
Thumb Ext  R (5) L (5)
___ DIP    R (5) L (5)
Index Abd  R (5) L (5)
Thumd Add  R (5) L (5)
Quad       R (5) L (5)
Ant Tib    R (5) L (not tested)
___        R (5) L (5)
Peroneal   R (5) L (not tested)
___         R (5) L (not tested)

 
Pertinent Results:
___ 05:54PM   GLUCOSE-107* UREA N-25* CREAT-1.2 SODIUM-139 
POTASSIUM-3.6 CHLORIDE-102 TOTAL CO2-28 ANION GAP-13
___ 05:54PM   estGFR-Using this
___ 05:54PM   WBC-10.3 RBC-5.08 HGB-14.4 HCT-42.4 MCV-83 
MCH-28.4 MCHC-34.0 RDW-14.2
___ 05:54PM   NEUTS-64.1 ___ MONOS-5.5 EOS-2.3 
BASOS-0.4
___ 05:54PM   PLT COUNT-190
___ 05:54PM   ___ PTT-24.6 ___
 
Brief Hospital Course:
Mr. ___ presented to the ___ on ___ via transfer 
from ___ with a left ankle fracture/dislocation.  He was 
evaluated by the orthopaedic surgery service, admitted, 
consented, and prepped for surgery.  Later on ___ he was 
taken to the operating room and underwent a closed reduction 
left ankle and an open reduction internal fixation left distal 
tib-fib syndesmosis.  He tolerated the procedure well, was 
extubated, transferred to the recovery room, and then to the 
floor.  On the floor he was seen by physical therapy to improve 
his strength and mobility.
The rest of his hospital stay was uneventful with his lab data 
and vital signs within normal limits and his pain controlled.  
He is being discharged today in stable condition.

 
Medications on Admission:
(1) HCTZ 25mg PO daily
(2) Simvastatin 20mg qHS
(3) ASA 81mg PO daily

 
Discharge Medications:
1. aspirin 325 mg Tablet, Delayed Release (E.C.) Sig: One (1) 
Tablet, Delayed Release (E.C.) PO once a day for 1 months.
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
2. hydrochlorothiazide 12.5 mg Capsule Sig: Two (2) Capsule PO 
DAILY (Daily).  
3. simvastatin 10 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily).  
4. oxycodone 5 mg Tablet Sig: ___ Tablets PO Q4H (every 4 hours) 
as needed for pain.
Disp:*90 Tablet(s)* Refills:*0*
5. Colace 100 mg Capsule Sig: One (1) Capsule PO twice a day as 
needed for constipation.
Disp:*60 Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Left ankle fracutre/dislocation
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Continue to be non-weight bearing on your left leg

Please take your aspirin daily for a total of 4 weeks after 
surgery

Please take all your medication as prescribed

If you have any increased pain, swelling, or numbness, not 
relieved with rest, elevation, and/or pain medication, or if you 
have a temperature greater than 101.5, please call the office or 
come to the emergency department
Physical Therapy:
Activity:  Activity as tolerated
 Left lower extremity:  Non weight bearing

Treatment Frequency:
Keep splint on 
Do not get splint wet or put anything down the splint
 
Followup Instructions:
___